US07960567B2
Methyl 2-(4-(4-amino-2-methyl-1H-indol-5-yloxy)-2,3-dimethylphenyl)acetate (12.6).
Under an N2 atmosphere, 2-(2,3-dimethyl-4-(2-methyl-4-nitro-1H-indol-5-yloxy)phenyl)acetic acid (0.335 g, 0.946 mmol) was suspended in methanol and tin chloride dihydrate (1.71 g, 7.57 mmol) was added. The reaction was heated to 60° C. for 16 h. The reaction was diluted with ethyl acetate and 10% NaHCO3 (aq). The layers were separated and the organic layer was washed with water (3×), dried (Na2SO4), filtered and concentrated in vacuo. Flash column chromatography of the residue, eluting with 20% to 80% ethyl acetate in hexanes, afforded the title compound. LC-MS ESI (pos.) m/z: 339.2 (M+H).

reactant | 2-(2,3-dimethyl-4-(2-methyl-4-nitro-1H-indol-5-yloxy)phenyl)acetic acid | 0.946 mmol, 0.335 g | CC1=C(C=CC(=C1C)OC=1C(=C2C=C(NC2=CC1)C)[N+](=O)[O-])CC(=O)O | C19H18N2O5
reactant | tin chloride dihydrate | 7.57 mmol, 1.71 g | O.O.[Sn](Cl)(Cl)(Cl)Cl
reactant | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | Methyl 2-(4-(4-amino-2-methyl-1H-indol-5-yloxy)-2,3-dimethylphenyl)acetate | NC1=C2C=C(NC2=CC=C1OC1=C(C(=C(C=C1)CC(=O)OC)C)C)C | C20H22N2O3
